US07863446B2
Synthesis of 2,2,2-trifluoro-N′-[5-(4-fluorophenyl)-6-pyridin-4-yl-2-(trifluoromethyl)pyrimidin-4-yl]acetohydrazide
To a solution of 5-(4-fluorophenyl)-4-hydrazino-6-pyridin-4-yl-2-(trifluoromethyl)pyrimidine (0.5 g, 1.43 mmol, example 13, prepared according to the procedure described for example 7) in dichloromethane (10 ml) was added trifluoroacetic anhydride (0.22 ml, 1.57 mmol) under stirring at −40° C. The stirring was continued at the same temperature for 30 minutes, until TLC using ethyl acetate and hexane (3:7) as solvent system confirmed the completion of the reaction. Subsequently the reaction mixture was poured onto ice and extracted with ethyl acetate (50 ml), dried over anhydrous sodium sulphate and evaporated to afford the desired compound (0.34 g, yield 53.3%, purity by HPLC 97%); m.p. 240-242° C. 1H-NMR (DMSO-d6) δ: 7.17-7.35 (m, 6H), 8.49-8.50 (d, 2H), 9.3 (s, 1H), 11.7 (s, 1H, D2O exchangeable). IR (KBr) cm−1: 3678, 3395, 3208, and 1742. MS m/z: 446.1 (M++1).

reactant | 5-(4-fluorophenyl)-4-hydrazino-6-pyridin-4-yl-2-(trifluoromethyl)pyrimidine | FC1=CC=C(C=C1)C=1C(=NC(=NC1C1=CC=NC=C1)C(F)(F)F)NN | C16H11F4N5
reactant | trifluoroacetic anhydride | 1.57 mmol, 0.22 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hexane | CCCCCC | C6H14
product | 2,2,2-trifluoro-N′-[5-(4-fluorophenyl)-6-pyridin-4-yl-2-(trifluoromethyl)pyrimidin-4-yl]acetohydrazide | 0.34 g, yield 53.3% | FC(C(=O)NNC1=NC(=NC(=C1C1=CC=C(C=C1)F)C1=CC=NC=C1)C(F)(F)F)(F)F | C18H10F7N5O
